US09340538B2
Step E: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.63 g, 1.2 mmol) was reacted with morpholine-3-carboxylic acid hydrochloride (0.23 g, 1.4 mmol) according to the procedure as described in Example 28 to give the title compound as a yellowish solid (0.41 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.2 mmol, 0.63 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=CN1)F | C17H13Br2F2N3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 1.4 mmol, 0.23 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.41 g, 60% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC(=CN1)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H21BrF2N4O5S
